US07067506B2
1-[2-(1,1-difluoromethoxy) -phenyl]-3-pyrazin-2-yl-urea
2-(Difluoromethoxy)phenylisocyanate (1.0 g, 5.4 mmol) and aminopyrazine (0.51 g, 5.4 mmol) were reacted for 6 hours in refluxing dimethoxy-ethane (20 mL). The reaction mixture was cooled to room temperature to precipitate the product, which was collected by filtration, washed with ethyl acetate, and dried in vacuo (765 mg, 50%). 1H NMR (300 Mhz, d6-DMSO) δ: 10.49 (br s, 1H), 10.26 (s, 1H), 8.83 (s, 1 H), 8.35-8.24 (m, 3H), 7.53-7.00 (m,4H).

reactant | 2-(Difluoromethoxy)phenylisocyanate | 5.4 mmol, 1.0 g | FC(OC1=C(C=CC=C1)N=C=O)F | C8H5F2NO2
reactant | aminopyrazine | 5.4 mmol, 0.51 g | NC1=NC=CN=C1 | C4H5N3
solvent | dimethoxy-ethane | 20 mL | COC(C)OC | C4H10O2
product | 1-[2-(1,1-difluoromethoxy) -phenyl]-3-pyrazin-2-yl-urea | FC(OC1=C(C=CC=C1)NC(=O)NC1=NC=CN=C1)F | C12H10F2N4O2
